US08614226B2
A solution of 302 mg (1.00 mmol) 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid, 194 mg (1.30 mmol) 2,6-dichloropyrazine and 101 mg (1.2 mmol) sodium bicarbonate in 4 ml DMF and 1 ml water was heated to 80° C. under nitrogen. Then 14.0 mg (0.02 mmol) bis-(triphenylphosphine)-palladium(II)-chloride were added and the reaction mixture was stirred for 16 hours at 80° C. Water was added to the reaction mixture and the resulting precipitate was filtered off. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 2-(5-chloro-2-fluoro-phenyl)-4-(6-chloro-pyrazin-2-yl)-[1,8]naphthyridine as colourless crystals; HPLC-MS: 2.35 min, [M+H] 371.

reactant | 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid | 1.00 mmol, 302 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)B(O)O)F | C14H9BClFN2O2
reactant | 2,6-dichloropyrazine | 1.30 mmol, 194 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | sodium bicarbonate | 1.2 mmol, 101 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.02 mmol, 14.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(5-chloro-2-fluoro-phenyl)-4-(6-chloro-pyrazin-2-yl)-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C1=NC(=CN=C1)Cl)F | C18H9Cl2FN4
